US09303033B2
To 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione (30 mg, 0.066 mmol) in DMF was added 1-chloro2-propanol (7 μL, 0.13 mmol) and potassium iodide (11.0 mg, 0.066 mmol). The mixture was heated to 120° C. and stirred for overnight. The reaction mixture was concentrated, diluted with MeOH, and purified by prep HPLC to yield 5-((5-(3-chlorophenylamino)-7-(1-(2-hydroxypropyl)piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione. LCMS (M+1=511)

reactant | 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 0.066 mmol, 30 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCNCC1)N=CC2C=C2C(NC(N2)=O)=O | C21H21ClN8O2
reactant | 1-chloro2-propanol | 0.13 mmol, 7 μL | ClCC(C)O | C3H7ClO
reactant | potassium iodide | 0.066 mmol, 11.0 mg | [I-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-((5-(3-chlorophenylamino)-7-(1-(2-hydroxypropyl)piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCN(CC1)CC(C)O)N=CC2C=C2C(NC(N2)=O)=O | C24H27ClN8O3
